US08293909B2
To a suspension containing 2-(4-fluorophenyl)-5-methoxy-N-methylpyrazolo[1,5-a]pyridine-3-carboxamide (0.30 g, 1.0 mmol) and toluene (10 mL), was added boron tribromide-methylsulfide complex (1.3 g, 4.0 mmol) in one portion. The mixture was stirred in a closed vessel at 105° C. for 40 h under a nitrogen atmosphere, cooled to room temperature and extracted with aqueous sodium hydroxide (3×20 mL, 2.0 M). The combined aqueous extracts were neutralized with aqueous HCl (2.0 M, approx. 60 mL) and extracted with ethyl acetate (3×50 mL). The combined organic portions were dried over MgSO4, filtered and concentrated to afford 2-(4-fluorophenyl)-5-hydroxy-N-methylpyrazolo[1,5-a]pyridine-3-carboxamide as a tan solid which was used without further purification. 1H NMR (500 MHz, DMSO-D6) δ ppm 10.69 (s, 1H), 8.55 (d, J=7.32 Hz, 1H), 7.75-7.82 (m, 2H), 7.50 (d, J=4.58 Hz, 1H), 7.28 (t, J=9.00 Hz, 2H), 7.05 (d, J=2.44 Hz, 1H), 6.65 (dd, J=7.48, 2.59 Hz, 1H), 2.72 (d, J=4.58 Hz, 3H). LCMS: retention time: 1.102 min. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Phenomenex-Luna, 10 u, C18, 3.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 4 min, a hold time of 1 min, and an analysis time of 5 min where solvent A was 10% CH3CN/90% H2O/10 mM TFA and solvent B was 10% H2O/90% CH3CN/10 mM TFA. MS data was determined using a Micromass Platform for LC in electrospray mode. m/z 285 (MH+).

reactant | 2-(4-fluorophenyl)-5-methoxy-N-methylpyrazolo[1,5-a]pyridine-3-carboxamide | 1.0 mmol, 0.30 g | FC1=CC=C(C=C1)C1=NN2C(C=C(C=C2)OC)=C1C(=O)NC | C16H14FN3O2
reactant | boron tribromide-methylsulfide complex | 4.0 mmol, 1.3 g | [B-]([S+](C)C)(Br)(Br)Br | C2H6BBr3S
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-fluorophenyl)-5-hydroxy-N-methylpyrazolo[1,5-a]pyridine-3-carboxamide | FC1=CC=C(C=C1)C1=NN2C(C=C(C=C2)O)=C1C(=O)NC | C15H12FN3O2
